US06174898B1
(R)-1-(2-((2,2-bis(4-Fluoro-2-methylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid hydrochloride
(R)-1-(2-((2,2-bis(4-Fluoro-2-methylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid ethyl ester (1.72 g, 0.0039 mol, prepared similarly to the method described in Example 70) was dissolved in ethanol (20 ml) and 10 N sodium hydroxide solution (4 ml) was introduced. The solution was stirred at room temperature for 3 h and water (100 ml) was added. The solution was extracted with diethyl ether (2×100 ml) and the aqueous phase was acidified to pH 5 with 2 N hydrochloric acid solution. Extraction with dichloromethane (4×80 ml) and drying of the combined extracts (MgSO4) followed by evaporation gave a residue, which was dissolved in toluene (50 ml). Methanol (0.16 ml) and chlorotrimethylsilane (0.51 ml) were added, and the product precipitated. The mixture was evaporated to a solid and recrystallized from toluene to give the title compound as a white crystalline solid (0.78 g, 44%).

reactant | (R)-1-(2-((2,2-bis(4-Fluoro-2-methylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)CCOC=C(C1=C(C=C(C=C1)F)C)C1=C(C=C(C=C1)F)C | C26H31F2NO3
reactant | sodium hydroxide | 10 N, 4 ml | [OH-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | chlorotrimethylsilane | 0.51 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | Methanol | 0.16 ml | CO | CH4O
product | (R)-1-(2-((2,2-bis(4-Fluoro-2-methylphenyl)ethenyl)oxy)ethyl)-3-piperidinecarboxylic acid hydrochloride | 0.78 g, 44% | Cl.FC1=CC(=C(C=C1)C(=COCCN1C[C@@H](CCC1)C(=O)O)C1=C(C=C(C=C1)F)C)C | InChI=1S/C24H27F2NO3.ClH/c1-16-12-19(25)5-7-21(16)23(22-8-6-20(26)13-17(22)2)15-30-11-10-27-9-3-4-18(14-27)24(28)29;/h5-8,12-13,15,18H,3-4,9-11,14H2,1-2H3,(H,28,29);1H/t18-;/m1./s1
